US07888374B2
6-Bromo-pyridine-2-carboxylic acid 2,5-dimethoxy-benzylamide
To a mixture of 6-bromopicolinic acid (1.01 g, 5.0 mmol) and 2,5-dimethoxybenzylamine (753 μL, 5.0 mmol) in DMF (10 mL) was added TBTU (1.77 g, 5.5 mmol), followed by N,N-diisopropylethylamine (871 μL, 5.0 mmol). The mixture was stirred at room temperature for 2 hours. After addition of saturated NaHCO3, the mixture was extracted with ethyl acetate. The organic phase was washed with brine (×3), dried (MgSO4), filtered and concentrated. It was triturated with CH3CN to provide the titled compound as white solid (1.05 g, 57%).

reactant | 6-bromopicolinic acid | 5.0 mmol, 1.01 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | 2,5-dimethoxybenzylamine | 5.0 mmol, 753 μL | COC1=C(CN)C=C(C=C1)OC | C9H13NO2
reactant | TBTU | 5.5 mmol, 1.77 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | 5.0 mmol, 871 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-pyridine-2-carboxylic acid 2,5-dimethoxy-benzylamide | 1.05 g, 57% | COC1=C(CNC(=O)C2=NC(=CC=C2)Br)C=C(C=C1)OC | C15H15BrN2O3
